US06995144B2
cis-1-Benzyl-3-(2-fluorophenoxymethyl)-4-hydroxypiperidine
After dissolving 1.49 g of cis-1-benzyl-4-hydroxy-3-(p-toluenesulfonyloxymethyl)piperidine in 8 ml of N,N-dimethylformamide, 0.71 ml of 2-fluorophenol and 1.22 g of anhydrous potassium carbonate mere added and the mixture was stirred at 100° C. for 50 minutes. Water was added to the reaction mixture, and extraction was performed with ethyl acetate. The organic layer was washed with a 5N sodium hydroxide solution, water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by NH silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (402 mg, 32% yield).

reactant | cis-1-benzyl-4-hydroxy-3-(p-toluenesulfonyloxymethyl)piperidine | 1.49 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)O)COS(=O)(=O)C1=CC=C(C=C1)C | C20H25NO4S
reactant | potassium carbonate | 1.22 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | 2-fluorophenol | 0.71 ml | FC1=C(C=CC=C1)O | C6H5FO
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | cis-1-Benzyl-3-(2-fluorophenoxymethyl)-4-hydroxypiperidine | 402 mg, 32% yield | C(C1=CC=CC=C1)N1C[C@H]([C@H](CC1)O)COC1=C(C=CC=C1)F | C19H22FNO2
